US09210931B2
Preparation of tert-Butyl (2-methyl-4-(pyridin-3-yl)-1H-imidazol-1-yl)-carbamate
To a mixture of ethyl acetimidate hydrochloride (2.0 g, 16.20 mmol) and triethylamine (3.28 g, 32.4 mmol) in ethanol (40 mL) was added a solution of tert-butyl hydrazinecarboxylate (2.14 g, 16.20 mmol) in ethanol (10 mL) at room temperature. The resulting mixture was stirred at room temperature overnight. Then to the mixture was added a solution of 2-bromo-1-(pyridin-3-yl)ethanone hydrobromide (5.0 g, 17.9 mmol) and triethylamine (4.9 g, 48.6 mmol) in ethanol (20 mL). The reaction mixture was stirred at room temperature for 5 hours then heated to reflux overnight. The solvent was removed under reduced pressure and the residue was purified via silica gel chromatography (dichloromethane: methanol, 10:1) to give the title compound as an orange oil (0.76 g, 17.3%): 1H NMR (300 MHz, CDCl3) δ 8.87 (s, 1H), 8.45 (d, 1H, J=6.3 Hz), 8.43 (s, 1H), 8.05 (d, 1H, J=6.3 Hz), 7.33-7.25 (m, 2H), 2.37 (s, 3H), 1.51 (s, 9H); ESIMS m/z 275 [(M+H)]+.

reactant | ethyl acetimidate hydrochloride | 16.20 mmol, 2.0 g | Cl.C(C)(OCC)=N
reactant | triethylamine | 32.4 mmol, 3.28 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hydrazinecarboxylate | 16.20 mmol, 2.14 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | 2-bromo-1-(pyridin-3-yl)ethanone hydrobromide | 17.9 mmol, 5.0 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | triethylamine | 48.6 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-Butyl (2-methyl-4-(pyridin-3-yl)-1H-imidazol-1-yl)-carbamate | 0.76 g, 17.3% | CC=1N(C=C(N1)C=1C=NC=CC1)NC(OC(C)(C)C)=O | C14H18N4O2
